US08871782B2
Following the method described in Part L of Example 2, N-{2-[2-(ethoxymethyl)-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}-N′-isopropylurea (3.12 g, 7.80 mmol) was treated with tert-butyl 6-iodohexylcarbamate (2.81 g, 8.58 mmol) to afford 4.31 g of tert-butyl 6-{[2-(ethoxymethyl)-1-(2-{[(isopropylamino)carbonyl]amino}-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}hexylcarbamate. The material was used without purification in the next step.

reactant | N-{2-[2-(ethoxymethyl)-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}-N′-isopropylurea | 7.80 mmol, 3.12 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CC(C)(C)NC(=O)NC(C)C | C21H29N5O3
reactant | tert-butyl 6-iodohexylcarbamate | 8.58 mmol, 2.81 g | ICCCCCCNC(OC(C)(C)C)=O | C11H22INO2
product | tert-butyl 6-{[2-(ethoxymethyl)-1-(2-{[(isopropylamino)carbonyl]amino}-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}hexylcarbamate | 4.31 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)OCCCCCCNC(OC(C)(C)C)=O)N1)CC(C)(C)NC(=O)NC(C)C | C32H50N6O5
